US07638568B2
Alternative Synthesis of Isononyl Benzoate (JNB)
A 4 liter distillation flask with top-mounted water separator and reflux condenser and also with a sampling port and thermometer was charged with 976 g of benzoic acid (8 mol), 1728 g of isononanol from Oxeno Olefinchemie GmbH (12 mol) and 0.59 g of butyl titanate (0.06% by weight based on the amount of acid) and this initial charge was heated at boiling under a nitrogen atmosphere. The water of reaction produced during the esterification was taken off at regular intervals. When the acid number fell below 0.1 mg KOH/g (after about 3 hours) the mixture was first cooled to below 60° C. and a 20 cm packed column was mounted. Thereafter the pressure was reduced to 2 mbar and first of all the excess alcohol was removed by distillation (temperature at the top of the column about 120° C.). Thereafter the batch was cooled to 80° C. and transferred to a 4 liter reaction flask with dip tube, top-mounted dropping funnel and column, and attached to a Claisen bridge. It was then neutralized with 5% strength by weight aqueous sodium hydroxide solution (5-fold excess of alkali) and stirred for 30 minutes more. Subsequently it was heated to 190° C. under reduced pressure (about 10 mbar). Then 8% by weight of fully demineralized water, based on the amount of crude ester employed, was added dropwise at constant temperature through the dropping funnel. Care was taken during this procedure to ensure that the overhead temperature did not climb above 120° C. Following the addition of water the heating was shut off and the mixture was cooled under reduced pressure. The ester was filtered off at room temperature on a suction filter with filter paper and filter aid. Gas chromatography indicated a purity for the ester of 99.7%.

reactant | benzoic acid | 8 mol, 976 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | isononanol | 1728 g | C(CCCCCC(C)C)O | C9H20O
reactant | Oxeno | CC(C1=CC=C(C=C1)CC2CCCC2=O)C(=O)O | C15H18O3
reactant | KOH | below 0.1 mg | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | butyl titanate | 0.59 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
solvent | water | O | H2O
product | Isononyl Benzoate | C(C1=CC=CC=C1)(=O)OCCCCCCC(C)C | C16H24O2
